US04022833
In a manner similar to that of Example 1, condensation of 1-pentadecene oxide (81.7 g.) and hexamethylenediamine (21 g.) and recrystallization of the resulting product (74.3 g.) from isopropyl alcohol gave N,N'-(1,6-hexylene)-bis[2-hydroxypentadecylamine] (I: R= CH3 (CH2)12, R' = H, X = (CH2)6, Z= H) (m.p. 117.4°-124.0° C.).

reactant | 1-pentadecene oxide | 81.7 g | C1C(CCCCCCCCCCCCC)O1 | C15H30O
reactant | hexamethylenediamine | 21 g | NCCCCCCN | C6H16N2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | N,N'-(1,6-hexylene)-bis[2-hydroxypentadecylamine] | C(CCCCCNCC(CCCCCCCCCCCCC)O)NCC(CCCCCCCCCCCCC)O | C36H76N2O2
